US04952571
To a stirred suspension of 4,5-dimethoxy-2-hydroxy-benzaldehyde (9.3 g) in dry ethanol (90 ml) under nitrogen was added slowly a solution of potassium hydroxide (3.14 g) in dry ethanol (60 ml). The resulting solution was stirred for 20 minutes, then 5-bromo-4-oxo-pentanoic acid methyl ester (10.65 g) was added slowly. The mixture was stirred for 24 hours, then diluted slowly with water (900 ml). The precipitated solid was filtered off, washed with water, dried under vacuum and crystallized from acetone-ether to give 4-(5,6-dimethoxy-benzo[b]furan-2-yl)-4-oxo-butanoic acid methyl ester (4.78 g).

reactant | 4,5-dimethoxy-2-hydroxy-benzaldehyde | 9.3 g | COC1=CC(=C(C=O)C=C1OC)O | C9H10O4
reactant | potassium hydroxide | 3.14 g | [OH-].[K+]
reactant | 5-bromo-4-oxo-pentanoic acid methyl ester | 10.65 g | COC(CCC(CBr)=O)=O | C6H9BrO3
solvent | ethanol | 90 ml | C(C)O | C2H6O
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 900 ml | O | H2O
product | 4-(5,6-dimethoxy-benzo[b]furan-2-yl)-4-oxo-butanoic acid methyl ester | 4.78 g | COC(CCC(=O)C1=CC2=C(O1)C=C(C(=C2)OC)OC)=O | C15H16O6
